US07795283B2
Intermediate 89: Ethyl [3-(4-aminophenyl)cyclohexyl]acetate
Aqueous HCl (1 mL of a 1M solution) was added to ethyl (3-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)acetate (137 mg, 0.32 mmol) in EtOH (10 mL) with stirring. After 1 h the reaction mixture was basified with aqueous potassium carbonate (10 mL of a saturated solution and the mixture was extracted with Et2O (2×15 mL), washed with water (15 mL) and dried. Volatile material was removed by evaporation and the residue was purified by chromatography eluting with 0-35% EtOAc/isohexane to give the title compound (Intermediate 89) (40 mg, 48%) as a gum; MS m/e MH+ 262.

reactant | HCl | Cl | ClH
reactant | ethyl (3-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)acetate | 0.32 mmol, 137 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC | C29H31NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | Ethyl [3-(4-aminophenyl)cyclohexyl]acetate | 40 mg, 48% | NC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC | C16H23NO2
